US04207317
The mixture of 2.6 g of 1-phenyl-3-methyl-2-pyrazolin-5-one, 75 ml of benzene, 1.8 g of triethylamine and 2.5 g of p-methylthiophenylisocyanate is stirred at ambient temperature and allowed to stand overnight. It is evaporated; the residue taken up in methanol, the solution is filtered and combined with the mixture of 10 ml of 5 N hydrochloric acid and 250 ml of water. The precipitate formed is collected, washed with water, dried, triturated with diethyl ether and dissolved in 2 N aqueous sodium hydroxide. The solution is filtered, acidified with 5 N hydrochloric acid, the precipitate washed with water, dried, triturated with methanol and recrystallized from ethyl acetate, to yield the 1-phenyl-3-methyl-4-(p-methylthiophenylcarbamoyl)-2-pyrazolin-5-one melting at 196°-199°.

reactant | 1-phenyl-3-methyl-2-pyrazolin-5-one | 2.6 g | C1(=CC=CC=C1)N1N=C(CC1=O)C | C10H10N2O
reactant | benzene | 75 ml | C1=CC=CC=C1 | C6H6
reactant | p-methylthiophenylisocyanate | 2.5 g | CSC1=CC=C(C=C1)N=C=O | C8H7NOS
solvent | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
product | 1-phenyl-3-methyl-4-(p-methylthiophenylcarbamoyl)-2-pyrazolin-5-one | C1(=CC=CC=C1)N1N=C(C(C1=O)C(NC1=CC=C(C=C1)SC)=O)C | C18H17N3O2S
